US09290496B2
Step 4: Preparation of (−)-1-(3-(9-isopropyl-6-((1-methyl-1H-pyrazol-4-yl)amino) -9H-purin-2-yl)piperidin-1-yl)prop-2-en-1-one
To 9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-2-(piperidin-3-yl)-9H-purin-6-amine from the previous reaction was added sat. aq. NaHCO3 (12 mL) and ethyl acetate (30 mL). The mixture was stirred for 10 min, and acryloyl chloride (148 μL, 1.8 mmol) was added and stirred at ambient temperature for 15 min. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (30 mL). The combined organics were dried over Na2SO4 and evaporated to give a foamy solid (600 mg) that was subjected to chiral SFC purification to separate the two enantiomers (Chiralcel OJ-H 4.6×250 mm column, 20% EtOH, 140 bar, 3.0 mL/min). Peak 1(+) eluted at 3.18 min. Peak 2 (−) as the title product eluted at 5.03 min) (86.4 mg, ˜98% ee, 16% yield in 3 steps). [α]D22=−76.0° (c 0.14, EtOH). 1H NMR (700 MHz, DMSO-17 mm) δ ppm 9.87 (br. s., 1 H) 8.28 (br. s., 1 H) 7.96-8.13 (m, 1 H) 7.74 (d, J=7.26 Hz, 1 H) 6.76-6.91 (m, 1 H) 5.99-6.17 (m, 1 H) 5.53-5.75 (m, 1 H) 4.69-4.84 (m, 2 H) 4.03-4.30 (m, 2 H) 3.84 (s, 3 H) 2.74-3.02 (m, 2 H) 2.11-2.28 (m, 1 H) 1.75-2.01 (m, 2 H) 1.54 (d, J=2.64 Hz, 7 H). m/z (APCI+) for C20H26N8O 395.1 (M+H)+.

reactant | 9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-2-(piperidin-3-yl)-9H-purin-6-amine | C(C)(C)N1C2=NC(=NC(=C2N=C1)NC=1C=NN(C1)C)C1CNCCC1 | C17H24N8
reactant | NaHCO3 | 12 mL | C(=O)(O)[O-].[Na+]
reactant | acryloyl chloride | 1.8 mmol, 148 μL | C(C=C)(=O)Cl | C3H3ClO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (−)-1-(3-(9-isopropyl-6-((1-methyl-1H-pyrazol-4-yl)amino) -9H-purin-2-yl)piperidin-1-yl)prop-2-en-1-one | 600 mg, 16% yield | C(C)(C)N1C2=NC(=NC(=C2N=C1)NC=1C=NN(C1)C)C1CN(CCC1)C(C=C)=O | C20H26N8O
